US07462639B2
1-Methyl-cyclopropanecarboxylic acid[3-(5-isopropyl-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide
Methyl-cyclopropanecarboxylic acid[3-(5-isopropyl-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-isopropyl-7,7-dimethyl-5,7-dihydro-3H-imidazo[4,5-f]indol-6-one (300 mg. 0.925 mmol) and 1-methyl-cyclopropanecarboxylic acid (101.8 mg, 1.017 mmol). 210 mg (56%) of the title compound were obtained.

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-isopropyl-7,7-dimethyl-5,7-dihydro-3H-imidazo[4,5-f]indol-6-one | 0.925 mmol, 300 mg | NC=1C(=NNC1)C=1NC=2C(=CC=3C(C(N(C3C2)C(C)C)=O)(C)C)N1 | C17H20N6O
reactant | 1-methyl-cyclopropanecarboxylic acid | 1.017 mmol, 101.8 mg | CC1(CC1)C(=O)O | C5H8O2
product | 1-Methyl-cyclopropanecarboxylic acid[3-(5-isopropyl-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide | 210 mg, 56% | C(C)(C)N1C(C(C=2C=C3C(=CC12)NC(=N3)C3=NNC=C3NC(=O)C3(CC3)C)(C)C)=O | C22H26N6O2
